US07011838B2
Using 1.00 g of (4-chlorobenzyl)malononitrile, 10 ml of N,N-di-methylformamide, 0.21 g of sodium hydride (60% in oil), and 0.67 g of 1-bromo-2-fluoroethane, and according to the process described in the Production Example 1, there was obtained 0.30 g of 2-(4-chlorobenzyl)-2-(2-fluoroethyl)malononitrile (the present compound (24)).

reactant | (4-chlorobenzyl)malononitrile | 1.00 g | ClC1=CC=C(CC(C#N)C#N)C=C1 | C10H7ClN2
reactant | sodium hydride | 0.21 g | [H-].[Na+]
reactant | 1-bromo-2-fluoroethane | 0.67 g | BrCCF | C2H4BrF
solvent | N,N-di-methylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-(4-chlorobenzyl)-2-(2-fluoroethyl)malononitrile | 0.30 g, Yield: 22% | ClC1=CC=C(CC(C#N)(C#N)CCF)C=C1 | C12H10ClFN2
